US08957203B2
A solution of 7-methoxy-2-(pyrrolidin-1-yl)quinazolin-4-ol (155 mg, 0.632 mmol) in POCl3 (2 ml, 21.46 mmol) was refluxed at 90° C. for 4 h. The reaction mixture was concentrated. The residue was dissolved in DCM and the pH was adjusted to 7 with 4N NaOH. The organic phase was collected and dried over sodium sulfate, filtered, then concentrated under vacuum. The crude material was purified by silica gel chromatography using 50% DCM in hexanes. The product fractions were collected and the solvent was removed under vacuum to give 4-chloro-7-methoxy-2-(pyrrolidin-1-yl)quinazoline (140 mg, 84% yield). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.86 (d, J=9.0 Hz, 1H), 6.91 (d, J=2.3 Hz, 1H), 6.82 (dd, J=9.0, 2.5 Hz, 1H), 3.92 (s, 3H), 3.69 (br. s., 4H), 2.03 (t, J=6.8 Hz, 4H); MS: MS m/z 264.1 (M++1).

reactant | 7-methoxy-2-(pyrrolidin-1-yl)quinazolin-4-ol | 0.632 mmol, 155 mg | COC1=CC=C2C(=NC(=NC2=C1)N1CCCC1)O | C13H15N3O2
reactant | POCl3 | 21.46 mmol, 2 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-7-methoxy-2-(pyrrolidin-1-yl)quinazoline | 140 mg, 84% yield | ClC1=NC(=NC2=CC(=CC=C12)OC)N1CCCC1 | C13H14ClN3O
